US08314239B2
To a solution of 2-fluoro-4-methyl-5-nitropyridine (150 mg, 0.9608 mmol) in acetonitrile (5 mL) was added 7-azabicyclo[2.2.1]heptane hydrochloride (152.9 mg, 1.153 mmol) and Et3N (243.1 mg, 334.8 μL, 2.402 mmol). The reaction was heated at 80° C. for 16 h. The reaction was quenched with water (2 mL) and solvent was evaporated. The residue was dissolved in ethyl acetate (15 mL), washed with 1N HCl (10 mL), dried over MgSO4, filtered and concentrated to afford 6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methylpyridin-3-amine (160 mg, 71% yield) as yellow solid which was used in next step without purification. 1H NMR (400.0 MHz, CDCl3) 8.96 (s, 1H), 6.37 (s, 1H), 4.59 (s, 2H), 2.59 (d, J=0.4 Hz, 3H), 1.83-1.80 (m, 4H), 1.61-1.54 (m, 4H).

reactant | 2-fluoro-4-methyl-5-nitropyridine | 0.9608 mmol, 150 mg | FC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5FN2O2
reactant | 7-azabicyclo[2.2.1]heptane hydrochloride | 1.153 mmol, 152.9 mg | Cl.C12CCC(CC1)N2
reactant | Et3N | 2.402 mmol, 334.8 μL, 243.1 mg | CCN(CC)CC | C6H15N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methylpyridin-3-amine | 160 mg, 71% yield | C12CCC(CC1)N2C2=CC(=C(C=N2)N)C | C12H17N3
